US07091198B1
10-Oxa-4-azatricyclo[5.2.1.02,6] decane-3,5-dione
This compound can be obtained by Diels-Alder reaction of furan with maleimide, for example in analogy to Fisera, L., Melnikov, J., Pronayova, N., Ertl, P., Chem. Pap. 1995, 49 (4), 186–191.

reactant | furan | O1C=CC=C1 | C4H4O
reactant | maleimide | C1(C=CC(N1)=O)=O | C4H3NO2
product | 10-Oxa-4-azatricyclo[5.2.1.02,6] decane-3,5-dione | C12C3C(NC(C3C(CC1)O2)=O)=O | C8H9NO3
